US04661607
A mixture of 2-chloro-3-hydroxy-9-oxo-9H-xanthene (8.0 g), potassium carbonate (13 g), 2-bromoethanol (12 g) and DMF (200 ml) was stirred at 45°-55° C. for 3 hours. After distilling off the solvent under vacuum, water was added to the residue and the solid crystal was recovered by filtration, washed with water and dried. Recrystallization from a mixed solvent of DMF and water gave 6.0 g of 2-chloro-3-(2-hydroxyethoxy)-9-oxo-9H-xanthene. m.p. 153°-156° C. This compound produced a mass spectrum having a molecular ion peak at m/e 290.

reactant | 2-chloro-3-hydroxy-9-oxo-9H-xanthene | 8.0 g | ClC1=CC=2C(C3=CC=CC=C3OC2C=C1O)=O | C13H7ClO3
reactant | potassium carbonate | 13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 12 g | BrCCO | C2H5BrO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-chloro-3-(2-hydroxyethoxy)-9-oxo-9H-xanthene | 6.0 g | ClC1=CC=2C(C3=CC=CC=C3OC2C=C1OCCO)=O | C15H11ClO4
